US03933824
To a stirred mixture of 21 g of lithium aluminum hydride and 100 ml of dry ether was added dropwise a solution of 67.5 g of 1-[β-(2-methyl-5-fluoro-3-indolyl)propionyl]-4-phenylpiperazine in 900 ml of tetrahydrofuran over a period of 90 minutes under gentle refluxing. Stirring and refluxing were continued for additional 4 hours and to the reaction mixture was added dropwise a mixture of water and tetrahydrofuran under cooling with ice. The resulting precipitate was filtered off and the filtrate was evaporated to dryness. Recrystallization of the residue from benzene gave 2-methyl-3-[γ-(4-phenylpiperazino)propyl]-5-fluoroindole having a melting point of 146.0°-147.0°C.

reactant | lithium aluminum hydride | 21 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | 1-[β-(2-methyl-5-fluoro-3-indolyl)propionyl]-4-phenylpiperazine | 67.5 g | CC=1NC2=CC=C(C=C2C1CCC(=O)N1CCN(CC1)C1=CC=CC=C1)F | C22H24FN3O
reactant | water | O | H2O
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
product | 2-methyl-3-[γ-(4-phenylpiperazino)propyl]-5-fluoroindole | CC=1NC2=CC=C(C=C2C1CCCN1CCN(CC1)C1=CC=CC=C1)F | C22H26FN3
